US04545809
70 g of 3-(N-methylamino)-5-t-butylpyrazole as prepared in Reference Example was dissolved in 1.5 l of water together with 46 g of sodium bicarbonate, and 52 g of methyl chloroformate was added dropwise to the aqueous solution over 1.5 hours at 10° C. The mixture was allowed to react at 10° C. for 1 hour. After completion of the reaction, the solid product was collected by filtration, washed with water and hexane and dried to obtain 62 g of methyl N-(5-tert-butyl-3-pyrazolyl)-N-methylcarbamate.

reactant | 3-(N-methylamino)-5-t-butylpyrazole | 70 g | CNC1=NNC(=C1)C(C)(C)C | C8H15N3
reactant | sodium bicarbonate | 46 g | C([O-])(O)=O.[Na+]
reactant | methyl chloroformate | 52 g | ClC(=O)OC | C2H3ClO2
solvent | water | 1.5 l | O | H2O
product | methyl N-(5-tert-butyl-3-pyrazolyl)-N-methylcarbamate | 62 g | C(C)(C)(C)C1=CC(=NN1)N(C(OC)=O)C | C10H17N3O2
